resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.017722
R2 0 n2 0.980023
R3 0 n4 1.004749
R4 n1 n3 0.981257
R5 n1 n5 1.0094
R6 n2 n3 0.022186
R7 n2 n6 1.016517
R8 n3 n7 1.014129
R9 n4 n5 0.990718
R10 n4 n6 43.597162
R11 n5 n7 0.986357
R12 n6 n7 0.995908
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
